US04427677
Trifluoroacetic acid (11.2 ml) was added to a solution of 7-[2-t-butoxycarbonylmethoxyimino-2-(2-amino-5-chlorothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (2.8 g) in methylene chloride (6 ml) and anisole (2.8 ml) under ice-cooling, and the mixture was stirred for an hour at ambient temperature. The reaction mixture was added to diisopropyl ether (120 ml) and precipitates were filtered. The precipitates were added to water and adjusted to pH 4.0 with 10% aqueous sodium hydroxide. The resulting solution was subjected to column chromatography on macroporus non-ionic adsorption "Diaion HP-20" and eluted with 15% aqueous solution of isopropyl alcohol. The fractions containing the object compound were collected and concentrated and lyophilized to give 7-[2-carboxymethoxyimino-2-(2-amino-5-chlorothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (0.97 g).

reactant | Trifluoroacetic acid | 11.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-[2-t-butoxycarbonylmethoxyimino-2-(2-amino-5-chlorothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 2.8 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C=1N=C(SC1Cl)N | C24H25ClN6O7S2
reactant | diisopropyl ether | 120 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 2.8 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-carboxymethoxyimino-2-(2-amino-5-chlorothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 0.97 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C=1N=C(SC1Cl)N | C20H17ClN6O7S2
